US06500863B1
N-(2-ethoxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (1.50 g, 5.16 mmol), 2-aminoethyl ethyl ether (0.46 g, 5.16mmol) and triethylamine (1.42 mL, 10.32 mmol) were reacted to form the desired product (1.78 g, 100%). LC-MS (m/z) 345.0 (M+).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 5.16 mmol, 1.50 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | 2-aminoethyl ethyl ether | 5.16mmol, 0.46 g | C(C)OCCN | C4H11NO
reactant | triethylamine | 10.32 mmol, 1.42 mL | C(C)N(CC)CC | C6H15N
product | N-(2-ethoxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide | 1.78 g, 100% | C(C)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C10H12Cl2N2O5S
